US04179497
A mixture of 16.25 parts by weight of 60 mesh pilocarpine nitrate and 83.38 parts by weight of hydroxypropyl cellulose are thoroughly mixed and to this mixture is added 8.37 parts of propylene glycol in a high shear mixer. A small amount of resulting mixture is then compressed using the procedures described in Example 2 to form a thin solid sheet of the mixture which is cut into rectangular shaped inserts about 10 mm. by 4 mm. having a thickness of about 0.8 mm. The ophthalmic inserts containing 3.4 mg. of pilocarpine so obtained were tested in the rabbit eye for moitic response with the following results:

reactant | pilocarpine nitrate | CC[C@H]1[C@H](COC1=O)CC2=CN=CN2C.[N+](=O)(O)[O-]
reactant | propylene glycol | C(C(C)O)O | C3H8O2
product | pilocarpine | CC[C@H]1[C@H](COC1=O)CC2=CN=CN2C | C11H16N2O2
